US06228888B1
2-(2-sulfanylethyl)pentanedioic acid
To a solution of ethyl 3-(2-oxotetrahydro-3-thiophenyl)propanoate (0.77 g, 3.81 mmol) in THF (5 ml) was added sodium hydroxide (1 M in water, 5 ml). The mixture was allowed to stir for two days, then the THF was removed under reduced pressure, the aqueous layer was washed with ether, then acidified to pH 1 with HCl and extracted with ethyl acetate. The combined ethyl acetate extracts were dried over magnesium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by column chromatography yielding a 150 mg of clear oil (20%). 1H NMR (d6-DMSO) δ 1.7 (m, 3H), 1.8 (m, 1H), 2.2 (m, 2H), 2.3-2.5 (m, 4H). Analysis calculated for C7H12SO4: C, 43.74; H, 6.29; S, 16.68. Found: C, 43.61; H, 6.39; S, 16.55.

reactant | ethyl 3-(2-oxotetrahydro-3-thiophenyl)propanoate | 3.81 mmol, 0.77 g | O=C1SCCC1CCC(=O)OCC | C9H14O3S
reactant | sodium hydroxide | 1 M, 5 ml | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(2-sulfanylethyl)pentanedioic acid | 150 mg, 20% | SCCC(C(=O)O)CCC(=O)O | C7H12O4S
